US05234946
Magnesium metal (1.2 g) was added to 2 ml of tetrahydrofuran. With stirring at room temperature, 20 ml of a solution of 2.0 g of 3-bromobenzaldehyde dimethyl acetal in a 1:1 mixture of tetrahydrofuran and ethyl ether was added dropwise over the course of 1 hour. With stirring under ice cooling, 15 ml of a tetrahydrofuran solution of 2.25 g of 3-methyl-2-butenyl bromide was added to the resulting solution. The temperature of the mixture was returned to room temperature, and then it was stirred for 1 hour. A saturated aqueous solution of ammonium chloride was added to the reaction mixture to terminate the reaction. Ethyl ether was added, and the reaction mixture was treated in a customary manner to give 1.71 g (yield 90%) of 3-(3-methyl-2-butenyl)benzaldehyde dimethyl acetal as a colorless oil.

reactant | Magnesium | 1.2 g | [Mg] | Mg
reactant | 3-bromobenzaldehyde dimethyl acetal | 2.0 g | COC(C1=CC(=CC=C1)Br)OC | C9H11BrO2
reactant | 3-methyl-2-butenyl bromide | 2.25 g | CC(=CCBr)C | C5H9Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | Ethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 3-(3-methyl-2-butenyl)benzaldehyde dimethyl acetal | 1.71 g, yield 90% | COC(C1=CC(=CC=C1)CC=C(C)C)OC | C14H20O2
